US08835472B2
2-(4-Iodo-phenyl)-1-methyl-ethylamine
9.00 g (29.69 mmol) N-[2-(4-iodo-phenyl)-1-methyl-ethyl]-acetamide (I52.1) are added to 150 mL HCl (4N) and the reaction mixture is stirred at reflux over night. Then the mixture is diluted with soda lye and extracted with EtOAc. The organic layer is dried with Na2SO4 and the solvent is removed in vacuo.

reactant | N-[2-(4-iodo-phenyl)-1-methyl-ethyl]-acetamide | 29.69 mmol, 9.00 g | IC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14INO
solvent | HCl | 4N, 150 mL | Cl | ClH
product | 2-(4-Iodo-phenyl)-1-methyl-ethylamine | IC1=CC=C(C=C1)CC(C)N | C9H12IN
